US05238944
Laboratory Scale Preparation of Isooctylacrylate/Acrylamide Copolymer
To a 114 gram narrow-mouth glass bottle were added: 18.6 g isooctyl acrylate, 1.4 g acrylamide, 0.04 g benzoyl peroxide, 27.0 g ethyl acetate and 3.0 g methanol. The solution was purged for thirty five seconds with nitrogen at a flow rate of one liter per minute. The bottle was sealed and placed in a rotating water bath at 55° C. for twenty-four hours to effect essentially complete polymerization. The polymer was diluted with ethyl acetate/methanol (90/10) to 23.2 percent solids and had a measured inherent viscosity of 1.26 dl/g in ethyl acetate.

reactant | isooctyl acrylate | 18.6 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | acrylamide | 1.4 g | C(C=C)(=O)N | C3H5NO
reactant | benzoyl peroxide | 0.04 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | methanol | 3.0 g | CO | CH4O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 27.0 g | C(C)(=O)OCC | C4H8O2
product | Isooctylacrylate Acrylamide | C(CCCCC(C)C)OC(C=C)=O.C(C=C)(=O)N | InChI=1S/C11H20O2.C3H5NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-2-3(4)5/h4,10H,1,5-9H2,2-3H3;2H,1H2,(H2,4,5)
